US04171441
A mixture of 200 ml. of p-cymene, 40 g. of ferric oxide and 7 g. of sulfur is heated to reflux (ca. 175° C.), and there is then added thereto dropwise over a period of 40 minutes a hot (130° C.) solution of 28.2 g. of 7-methyl-1-isopropyl-4-phenyl-5,6,7,8-tetrahydro-2(1H)-quinazolinone in 200 mls. of p-cymene. The resulting solution is refluxed for 3.5 hours during which time 1.8 mls. of water are collected in a Dean Stark separator. The reaction solution is then cooled to 28° C. and filtered through a celite pad which is then washed 4 times each with 25 mls. of toluene. The toluene washings are extracted with 50 mls. of 4 N. hydrochloric acid and the p-cymene filtrate is extracted with 350 mls. of 4 N. hydrochloric acid. The acid extracts are combined and extracted with 100 mls. of toluene, and such toluene extracts discarded. The acid solution remaining after such toluene extraction is treated by addition of 350 mls. of toluene and 100 g. of 50% aqueous sodium hydroxide solution. The phases are separated and the toluene phase washed twice each with 100 mls. of water, followed by drying over sodium sulfate, filtering and evaporation in vacuo. The solid residue is crystallized from ethyl acetate to obtain 7-methyl-1-isopropyl-4-phenyl-quinazolin-2(1H)-one, m.p. 139°-141° C.

reactant | p-cymene | CC=1C=CC(=CC1)C(C)C | C10H14
reactant | sulfur | [S] | S
reactant | 7-methyl-1-isopropyl-4-phenyl-5,6,7,8-tetrahydro-2(1H)-quinazolinone | CC1CCC=2C(=NC(N(C2C1)C(C)C)=O)C1=CC=CC=C1 | C18H22N2O
product | 7-methyl-1-isopropyl-4-phenyl-quinazolin-2(1H)-one | CC1=CC=C2C(=NC(N(C2=C1)C(C)C)=O)C1=CC=CC=C1 | C18H18N2O
